US04255332
Lithium clavulanate (5.15 g, estimated purity 95% pfa; 0.025 moles) was dissolved in water (45 mls) and cooled in an ice bath. Tripotassium orthophosphate (10.1 mls of 1 M solution; 1.2 equivalents) was added in one lot. Ethanol (32 mls) was added slowly over 1/2 hour by which time lithium phosphate had precipitated out and the pH had fallen from 8.3 to 7.3. The mixture was then made up to 800 mls with acetone over 3/4 hr. Celite (2 gm) was added and then the mixture was filtered to give a clear, colourless filtrate. This was added with rapid stirring to acetone (1750 mls) over 1 hr and the white solid was filtered off, washed with acetone (3×50 mls) and dried on a fluid bed dryer to yield potassium clavulanate (4.8 g, 82.9 pfa, 81% recovery).

reactant | Lithium clavulanate | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | Tripotassium orthophosphate | 1 M, 10.1 mls, 1.2 equivalents | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Ethanol | 32 mls | C(C)O | C2H6O
reactant | lithium phosphate | P(=O)([O-])([O-])[O-].[Li+].[Li+].[Li+]
solvent | water | 45 mls | O | H2O
solvent | acetone | 1750 mls | CC(=O)C | C3H6O
product | potassium clavulanate | 4.8 g, 81% | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
